Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:5],4.17604035776
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[C:9]([H:10])([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],1.22401686258
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],3.95128900462
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.78925714
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C@@:5]12[O:6][C@@:7]1([H:8])[C:9]2[H:10],-2.20880945059
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-1.57503523049
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],5.2407249
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5],2.85229407664
[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.14686970512
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[O:8][H:9]>>[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[O:8][H:9],4.04691917944
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.65734960584
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9],5.91324913953
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.82949619542
[C:1]#[C:2][C:7]([H:8])([O:9][H:10])[O:11][H:12].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-3.3151903326700003
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7].[H:8]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[H:8],-4.41335991747
[C:5][O:6][H:7].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7],-0.0711541700002
[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.86689912822
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([C:4]#[C:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6],5.30057951487
[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-2.75447601465
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.63221699691
[O:1][C:2][C:3].[O:4]=[C:5][H:6]>>[O:1]=[C:2]=[C:3][O:4][C:5][H:6],-0.0534302010004999
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8].[H:9],4.0548061016300005
[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.34064688511
[H:12].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.57939998295
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.6208464905899995
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3](=[O:4])=[C:6]([H:7])[C:8]([H:9])[H:10].[O:1]([C:2])[H:5],2.03042607873
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])([H:9])[H:10],2.34362366977
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12].[H:1],4.75445467531
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],1.97409797061
